US04824958
4,5-Dibromo-3-(1-methylethoxy)-1-methyl-N-1H-tetrazol-5-yl-1H-pyrrole-2-carboxamide.
Prepared by the method described in Example 115 from 4,5-dibromo-3-(1-methylethoxy)-1-methyl-1H-pyrrole-2-carboxylic acid (3.5 g, 0.01 moles), 1,1'-carbonyldiimidazole (1.7 g, 0.01 moles), and 5-aminotetrazole (0.87 g, 0.01 moles). Recrystallization from ethyl acetate gave the product (2.1 g); mp 218°-220° C. (dec).

reactant | 4,5-dibromo-3-(1-methylethoxy)-1-methyl-1H-pyrrole-2-carboxylic acid | 0.01 moles, 3.5 g | BrC=1C(=C(N(C1Br)C)C(=O)O)OC(C)C | C9H11Br2NO3
reactant | 1,1'-carbonyldiimidazole | 0.01 moles, 1.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole | 0.01 moles, 0.87 g | NC1=NN=NN1 | CH3N5
product | 4,5-Dibromo-3-(1-methylethoxy)-1-methyl-N-1H-tetrazol-5-yl-1H-pyrrole-2-carboxamide | 2.1 g | BrC=1C(=C(N(C1Br)C)C(=O)NC1=NN=NN1)OC(C)C | C10H12Br2N6O2
